US09034866B2
Synthesis of (±)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-6-(hydroxymethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, racemic 10-bromo-6-(hydroxymethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with racemic 2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol to give the titled compound as a yellow solid (mixture of diasteromers, 98 mg, 40%).

reactant | racemic 10-bromo-6-(hydroxymethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CC(O2)CO)C=C(N3)C(=O)N)C1 | C13H12BrN3O3
reactant | racemic 2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)C(C)(C#C)O | C8H9NO2
product | (±)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-6-(hydroxymethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 98 mg, 40% | OC(C#CC=1C=CC2=C(C=3N(CC(O2)CO)C=C(N3)C(=O)N)C1)(C)C1=NOC(=C1)C | C21H20N4O5
